Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
ACUTE CARE SURGERY CONSULT HISTORY & PHYSICAL

CC: abdominal pain

HPI: Mr. ___ is a ___ man with morbid obesity and
multiple associated comorbidities who was transferred from an 
OSH
today for cholecystitis. 

He was in his USOH until two weeks ago he started having
epigastric pain radiating to the right side that was a/w nausea
and vomiting. He went to ___ where he was found to
have a WBC of 15k, and elevated alk phos but otherwise normal
LFTs/lipase. A RUQ US was non-diagnostic given his body habitus
and a CT was unable to be performed, also ___ to his body
habitus. He was thus transferred to ___ 
where
he underwent CT abdomen/pelvis which showed moderate
hepatosplenomegaly but no evidence of cholecystitis. he 
continued
to have pain so a HIDA was ordered but could not be performed,
again ___ his weight. He was thus discharged on a 7-day course 
of
augmentin and instructions to follow-up at ___
for a HIDA.

In the interim, his symptoms have progressed over the last 4 
days
to the point where he can only tolerate liquids. He returned to
___ today where his WBC was found to be 13.7, TB 0.5, APhos 120,
ALT 16, AST 8, lipase 47. He underwent repeat CT (the images and
official reports of which were not sent with him), which
reportedly revealed findings concerning for cholecystitis. 

Denies fevers, chills, diarrhea, changes in bowel habits, chest
pain, SOB, urinary freq/urgency, dysuria
 
Past Medical History:
morbid obesity, IDDM, HTN, HPL, ?CHF, pulmonary HTN, asthma,
OSA (on bipap at night), COPD, chronic back pain, mood/anxiety
disorder, hx of SI/SA, erectile dysfunction
 
Social History:
___
Family History:
Maternal uncles died in their late-___ or ___ of cardiac causes
(d. ___ ; ___ s/p CABG @___ ; ___ ; ___ s/p CABG @___) 
Mother is alive, but morbidly obese with multiple medical 
problems 
Dad is alive, relatively healthy

 
Physical Exam:
ADMISSION PHYSICAL:
==============
VS - 98.7 66 140/76 16 92% 2L  
GEN - NAD, awake/alert
HEENT - NCAT, EOMI, no scleral icterus, MMM
___ - RRR, distant heart sounds ___ body habitus
PULM - diminished breath sounds at bases, no W/R/R
ABD - morbidly obese, soft, nondistended; severe epigastric and
RUQ TTP with ___
EXTREM - warm, non-pitting edema

DISCHARGE PHYSICAL:
==============
Vitals: T 98.3, BP 138/82, P 82, R 20, O2 97 on CPAP
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Lungs: Limited by body habitus. Otherwise CTA b/l
CV: Limited by body habitus. RRR, no appreciable m/r/g, faint 
S1/S2
Abdomen: obese, soft, tender especially over epigastric/RUQ, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding
Ext: Warm, well perfused, 1+ ___ edema
 
Pertinent Results:
ADMISSION LABS:
===========
___ 07:20PM BLOOD WBC-12.9* RBC-4.59* Hgb-12.8* Hct-39.2* 
MCV-86 MCH-28.0 MCHC-32.7 RDW-15.7* Plt ___
___ 07:20PM BLOOD Neuts-75.5* Lymphs-17.1* Monos-4.2 
Eos-2.4 Baso-0.7
___ 07:20PM BLOOD ___ PTT-30.0 ___
___ 07:20PM BLOOD ALT-11 AST-12 AlkPhos-112 TotBili-0.5
___ 07:20PM BLOOD Lipase-29
___ 03:24AM BLOOD cTropnT-<0.01
___ 07:20PM BLOOD Albumin-3.7
___ 04:15AM BLOOD Calcium-9.2 Phos-3.6 Mg-1.9
___ 07:28PM BLOOD Lactate-0.8

DISCHARGE LABS:
===========
___ 07:00AM BLOOD WBC-12.2* RBC-4.65 Hgb-12.7* Hct-40.0 
MCV-86 MCH-27.4 MCHC-31.9 RDW-15.8* Plt ___
___ 07:00AM BLOOD Glucose-212* UreaN-11 Creat-0.8 Na-138 
K-4.6 Cl-98 HCO3-32 AnGap-13

MICROBIOLOGY:
==========
___ 7:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS EPIDERMIDIS.    FINAL SENSITIVITIES. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS EPIDERMIDIS
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 0105. 

      GRAM POSITIVE COCCI IN CLUSTERS.

___ 5:35 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

PERTINENT STUDIES:
=============

HIDA SCAN (___)
FINDINGS:
Serial images over the abdomen show homogeneous uptake of tracer 
into the
hepatic parenchyma.
At 30 minutes, the gallbladder is visualized.
IMPRESSION:  No evidence of acute cholecystitis.

EKG (___)
Probable sinus rhythm. Generalized low voltage. Vertical axis. 
Somewhat late
R wave progression. Compared to the previous tracing of ___ 
the rate is
now slower. Artifact on the previous tracing precludes further 
comparison.
Clinical correlation is suggested.
 IntervalsAxes
___
___

CXR (___)
IMPRESSION: 
No relevant change. Low lung volumes. Elevation of the right 
hemidiaphragm.
Mild cardiomegaly. Minimal fluid overload but no overt pulmonary 
edema.  No
pleural effusions.  No pneumonia.

CT ABD/PELVIS W CONTRAST (___)
IMPRESSION:
1. No acute intra-abdominal process.
2. Hepatomegaly with elevation right hemidiaphragm.
3. Bilateral femoral head avascular necrosis.

EGD (___) and PATHOLOGY
Mildly irregular z-line was noted - this was not biopsied due to 
patient discomfort during the procedure
Erythema and friability were noted throughout the stomach body 
and antrum compatible with gastritis. (biopsy)
Several small erosions were appreciated throughout the stomach 
body. (biopsy)
Normal mucosa in the duodenum
Otherwise normal EGD to third part of the duodenum

Stomach Biopsy Pathology: 
Focal features consistent with chemical type injury.
 
Brief Hospital Course:
Patient is a ___ with a history of obesity, COPD, OSA on CPAP, 
IDDM, CHF who presented from an OSH with epigastric/RUQ 
abdominal pain for a HIDA scan. HIDA scan and CT abd/pelvis were 
both negative. Patient then had an EGD which showed gastritis. 
Cardiology was consulted to rule out atypical angina. EKG was 
normal and troponins were negative.

#Abdominal pain - based on EGD, most likely due to gastritis. 
Biopsy results were pending as was H. pylori testing. We would 
also consider narcotic bowel syndrome given long term opioid 
use. We increased the patient's pantoprazole to 40 mg PO BID 
with some improvement in symptoms.

#Cardiac workup - We did not feel this was atypical angina. 
Cardiology recommended continuing statin and aspirin as well as 
considering metoprolol succinate 25 mg daily provided the 
patient's HR is stable in the 70-80s (he was often in the ___ 
here).

#Staph epidermidis bacteremia - Patient clinically did not 
appear bacteremic and does not have an indwelling line or valve 
that would merit treatment. Antibiotics were discontinued prior 
to discharge.

#CHF
- Continue furosemide 40 mg QAM and QNOON

#IDDM - At home takes insulin 70/30 100U QAM, ___ 90U QPM, and 
metformin 1000 mg BID. Patient to resume these meds on discharge
- Held home metformin
- Given decreased PO, now getting 70/30 50U QAM and QPM and ISS

#OSA
- Continue home CPAP

#COPD
- Continue home tiotropium, albuterol, fluticasone-salmeterol 
500/50

#Back pain
- Continue home oxycodone 30 mg Q4H PRN pain (max 4 per day), 
oxycontin 80 mg PO Q12H

==TRANSITIONAL ISSUES==
[ ] patient may benefit from metoprolol succinate 25 mg PO daily 
if his HR is consistently > 70 given is his risk for 
cardiovascular disease
[ ] our GI department should contact the patient with the 
results from his EGD biopsy
[ ] chronic pain management - patient was given 2 days worth of 
home pain meds upon discharge, as he reported missing an 
appointment to fill these meds when initially hospitalized and 
the time frame was consistent with the last reported Rx from PCP 
office
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath or 
wheezing 
4. TraZODone 100 mg PO HS 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Atorvastatin 40 mg PO DAILY 
7. Furosemide 80 mg PO BID 
8. 70/30 100 Units Breakfast
Humalog ___ 90 Units BedtimeMax Dose Override Reason: Home 
regimen

9. Lorazepam 2 mg PO Q8H:PRN anxiety 
10. OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
11. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
12. carisoprodol 350 mg oral BID:PRN pain 
13. Pantoprazole 40 mg PO Q24H 
14. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
stomach discomfort 
15. Docusate Sodium 100 mg PO HS constipation 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath or 
wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Furosemide 80 mg PO BID 
6. 70/30 100 Units Breakfast
Humalog ___ 90 Units BedtimeMax Dose Override Reason: Home 
regimen

7. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
RX *oxycodone 30 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*8 Tablet Refills:*0
8. OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
RX *oxycodone [OxyContin] 80 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*4 Tablet Refills:*0
9. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0
10. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
stomach discomfort 
11. carisoprodol 350 mg oral BID:PRN pain 
12. Docusate Sodium 100 mg PO HS constipation 
13. Lorazepam 2 mg PO Q8H:PRN anxiety 
14. MetFORMIN (Glucophage) 1000 mg PO BID 
15. TraZODone 100 mg PO HS 
16. Carbamide Peroxide 6.5% ___ DROP AD BID Duration: 4 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: abdominal pain
SECONDARY: gastritis
Staphylococcus epidermidis bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for abdominal pain. Initially, 
the concern was that you had an infection of your gallbladder 
however a HIDA scan showed that this was not the case. A CT scan 
of your abdomen also did not show any clear cause of you 
abdominal pain. You got an EGD (scope) which found that the 
inside lining of your stomach was inflamed (gastritis). We 
increased your antacid medicine to help treat this. Biopsies of 
your stomach were taken and you should call our GI department to 
follow up on those results if you do not hear from them in the 
next week, or your PCP can refer you to a GI doctor in ___ 
___.

Our cardiologists also evaluated you to make sure that your pain 
was not coming from your heart, however you had a normal EKG and 
no laboratory evidence of heart injury. If you have any chest 
pain, you should tell your PCP right away and see a 
cardiologist. Your blood tested positive for a bacteria called 
Staphylococcus epidermidis. We think this was just from 
contamination of the blood we took to culture. We do not think 
you have any infection and stopped your antibiotics.

You should call your PCP (see information below) on ___ to 
schedule a follow up appointment.

It was a pleasure taking care of you,

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___